US09428456B2
1-[2-(4-Fluoro-benzoylamino)-pyridin-4-ylmethyl]-piperidine-4-carboxylic acid cyclohexylamide
A suspension of 1-(2-chloro-pyridin-4-ylmethyl)-piperidine-4-carboxylic acid cyclohexylamide (50 mg, 0.15 mol), 4-fluoro-benzamide (20 mg, 0.15 mmol) and Cs2CO3 (5 mg, 0.16 mmol) in degassed dioxane (3 mL) is treated with 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (Xantphos) (17 mg, 0.030 mmol) and tris(dibenzylideneacetone)dipalladium(0) (6.8 mg, 0.007 mmol). The reaction mixture is heated overnight at 100° C. The mixture is filtered, evaporated, dissolved in MeCN (1 mL) and purified by prep HPLC E. The product is dissolved in 2 ml HCl 1.25 N in MeOH and re-evaporated at HV, delivering the title compound hydrochloride as a slightly yellow powder, LC-MS A: tR=0.67 min; [M+H]+=439.3.

reactant | 1-(2-chloro-pyridin-4-ylmethyl)-piperidine-4-carboxylic acid cyclohexylamide | 0.15 mol, 50 mg | C1(CCCCC1)NC(=O)C1CCN(CC1)CC1=CC(=NC=C1)Cl | C18H26ClN3O
reactant | 4-fluoro-benzamide | 0.15 mmol, 20 mg | FC1=CC=C(C(=O)N)C=C1 | C7H6FNO
reactant | Cs2CO3 | 0.16 mmol, 5 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 0.030 mmol, 17 mg | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.007 mmol, 6.8 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 1-[2-(4-Fluoro-benzoylamino)-pyridin-4-ylmethyl]-piperidine-4-carboxylic acid cyclohexylamide | C1(CCCCC1)NC(=O)C1CCN(CC1)CC1=CC(=NC=C1)NC(C1=CC=C(C=C1)F)=O | C25H31FN4O2
